US04011324
3-Aminophenoxyacetamide
A solution of 50% sodium hydride (5.76 g., 0.12 M), 3-hydroxyaniline (13.09 g., 0.12 M) and chloroacetamide (11.22 g., 0.12 M) is stirred at room temperature for 18 hours. The mixture is diluted with water to decompose residual sodium hydride and is then extracted with chloroform. The chloroform extract is dried (MgSO4) and concentrated to an oil under reduced pressure. The addition of chloroform causes it to crystallize. Yield = 10.0g. (50%); m.p. 107°-111° C.

reactant | sodium hydride | 0.12 M, 5.76 g | [H-].[Na+]
reactant | 3-hydroxyaniline | 0.12 M, 13.09 g | OC=1C=C(N)C=CC1 | C6H7NO
reactant | chloroacetamide | 0.12 M, 11.22 g | ClCC(=O)N | C2H4ClNO
solvent | water | O | H2O
product | 3-Aminophenoxyacetamide | NC=1C=C(OCC(=O)N)C=CC1 | C8H10N2O2
